US06541583B2
The general procedure of Example A is followed. The reaction of 1-indanone and N,N-diphenylhydrazine hydrochloride gives 5-phenyl 5,10-dihydroindeno[1,2-b]indole. It then reacts with n-butyllithium to produce its lithium salt, which in turn reacts with zirconium tetrachloride to produce Catalyst II.

reactant | 1-indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | N,N-diphenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
product | 5-phenyl 5,10-dihydroindeno[1,2-b]indole | C1(=CC=CC=C1)N1C2=C(C=3C=CC=CC13)CC1=CC=CC=C12 | C21H15N
